US08106043B2
N,N-Dimethyl-2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanamine:
A solution of 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine (240 mg, 1.33 mmol) in DMF (10 mL) was treated with NaH (170 mg, 4.26 mmol, 60% wt in mineral oil) at 0° C., resulting in an orange mixture. The mixture was then treated with 2-chloro-N,N-dimethylethanamine hydrochloride (384 mg, 2.66 mmol), resulting in a dark red mixture. The reaction was stirred at room temperature for 1 hour. At this time, the reaction was then heated to 90° C. and stirred for another 45 minutes. The reaction was cooled to room temperature, water (15 mL) was added, and the reaction was extracted into EtOAc (2×12 mL). The combined organic layers were washed with brine (3×5 mL), dried (Na2SO4), filtered, and concentrated. The residue was subjected to flash chromatography on silica gel: CH2Cl2 followed by 5:95 (2M NH3 in MeOH):CH2Cl2 to give a yellow/orange solid (210 mg, 63%). 1H-NMR (DMSO-d6) δ 7.75 (dd, J=2.7, 9.0 Hz, 1H), 7.48 (d, J=2.7 Hz, 1H), 6.82 (d, J=9.0 Hz, 1H), 4.18 (t, J=4.5 Hz, 2H), 3.57-3.53 (m, 4H), 2.54-2.45 (m, 2H), 2.23 (s, 6H).

reactant | 7-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.33 mmol, 240 mg | [N+](=O)([O-])C=1C=CC2=C(OCCN2)C1 | C8H8N2O3
reactant | NaH | 4.26 mmol, 170 mg | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 2.66 mmol, 384 mg | Cl.ClCCN(C)C
reactant | water | 15 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanamine | 210 mg, 63% | CN(CCN1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-])C | C12H17N3O3
